US07666871B2
5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(3′-trifluoromethyl-biphenyl-4-yl)-oxazole
To a stirred solution of 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole (100 mg, 0.299 mmol), sodium carbonate (94.9 mg, 0.895 mmol) and 3-Trifluoromethylbenzene boronic acid (284 mg, 1.49 mmol) in toluene (5 mL), water (1 mL) and ethanol (1.5 mL) under nitrogen was added Tetrakis(triphenylphosphine) palladium (0) (34.5 mg, 0.030 mmol). The reaction was then heated to reflux for 48 h. The reaction was allowed to cool and bound to a SCX-2 cartridge (5 g). The cartridge was washed with one cartridge volume of dimethylformamide and two volumes of methanol. The product was eluted using 2M ammonia in methanol. The ammonia/methanol solution was evaporated on a Genevac® HT4. The sample was further purified by prep-LCMS. The resulting acetonitrile/water fractions were combined and evaporated using a Genevac® HT4 to give 77.7 mg of a colourless oil (65%). MS (m/e): 401.2 (M+1)

reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | 0.299 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
reactant | sodium carbonate | 0.895 mmol, 94.9 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-Trifluoromethylbenzene boronic acid | 1.49 mmol, 284 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine) palladium (0) | 0.030 mmol, 34.5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(3′-trifluoromethyl-biphenyl-4-yl)-oxazole | 77.7 mg, 65% | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F)CCN1CCCC1 | C23H23F3N2O
